US07786115B2
To a suspension of 4-methyl-3-[7-(3-morpholin-4-ylpropyl)-1-oxoisoquinolin-2(1H)-yl]benzoic acid (140 mg) in methylene chloride (3 ml) was cooled to 0° C. and oxalyl chloride (59 μl) was added. After the addition of DMF (25 μl), the reaction mixture was stirred at room temperature for 2 hours, 3-aminoisoxazole (126 μl) was added and stirring continued at room temperature for 3.5 hours. The reaction mixture was dissolved in methanol and water and purified by column chromatography on an ion exchange column (isolute SCX column from International Sorbent Technology Limited, Henoed, Mid-Glamorgan, UK) using initially methanol and then a 99:1 mixture of methanol and aqueous ammonia solution to give a brown oil. The oil was dissolved in ethyl acetate and the insoluble material was removed by filteration. The filtrate was washed with water, brine, dried (magnesium sulfate) and concentrated to a brown oil. Purification by column chromatography on a silica column eluting using a gradient of ethyl acetate to 10% methanol/ethyl acetate gave N-isoxazol-3-yl-4-methyl-3-[7-(3-morpholin-4-ylpropyl)-1-oxoisoquinolin-2(1H)-yl]benzamide as a yellow foam (55 mg); NMR Spectrum: (DMSOd6) 1.80 (m, 2H), 2.15 (s, 3H), 2.28-2.36 (m, 6H), 2.78 (t, 2H), 3.58 (t, 4H), 6.75 (d, 1H), 7.05 (s, 1H), 7.33 (d, 1H), 7.59 (d, 1H), 7.68 (m, 2H), 8.01 (s, 1H), 8.06 (d, 1H), 8.10 (s, 1H), 8.85 (s, 1H), 11.47 (s, 1H); Mass Spectrum: M+H+ 473.

reactant | 4-methyl-3-[7-(3-morpholin-4-ylpropyl)-1-oxoisoquinolin-2(1H)-yl]benzoic acid | 140 mg | CC1=C(C=C(C(=O)O)C=C1)N1C(C2=CC(=CC=C2C=C1)CCCN1CCOCC1)=O | C24H26N2O4
reactant | oxalyl chloride | 59 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 25 μl | CN(C)C=O | C3H7NO
reactant | 3-aminoisoxazole | 126 μl | NC1=NOC=C1 | C3H4N2O
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-isoxazol-3-yl-4-methyl-3-[7-(3-morpholin-4-ylpropyl)-1-oxoisoquinolin-2(1H)-yl]benzamide | 55 mg | O1N=C(C=C1)NC(C1=CC(=C(C=C1)C)N1C(C2=CC(=CC=C2C=C1)CCCN1CCOCC1)=O)=O | C27H28N4O4
